US04578381
To 5 g of 3-hydroxymethylcarbostyril was added 50 ml of 47%-hydrobromic acid and the mixture was stirred at 70°-80° C. for 3 hours. After cooled the reaction mixture, the crystals precipitated were collected by filtration and were recrystallized from methanol to obtain 6 g of 3-bromomethylcarbostyril in the form of colorless needle-like crystals.

reactant | 3-hydroxymethylcarbostyril | 5 g | OCC=1C(NC2=CC=CC=C2C1)=O | C10H9NO2
reactant | hydrobromic acid | Br | BrH
product | 3-bromomethylcarbostyril | 6 g | BrCC=1C(NC2=CC=CC=C2C1)=O | C10H8BrNO
